US20010027196A1
2-Amino-4-benzyloxy-6-chloro-pyrimidine-5-carbonitrile
From 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile, benzyl alcohol and DBU in DME. EI-MS m/e (%): 262 (M{37Cl}+, 22), 260 (M{35Cl}+,60), 91 (100).

reactant | 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Cl)C#N)S(=O)C | C6H5ClN4OS
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzyloxy-6-chloro-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC1=CC=CC=C1)C#N)Cl | C12H9ClN4O
